* Additional subcircuits required for NCP2820_1.lib
* Most of these functions use LTspice specific features.


* Digital support circuits
*
* The reset voltage is required to suppress a startup pulse in Pulse_falling.
V_dig_reset7 $g_reset 0 PULSE(5 0 1u .1u .1u)
*
* Global digital nets often used in NCP2820.lib
V_dig_supply7 $g_dpwr $g_dgnd 5
R_dig_supply7 $g_dgnd 0 1µ


* Outputs a pulse on the rising edge with a length WIDTH
*
.subckt pulse_rising in out
.param width=100n
A3 out 0 0 0 0 0 N003 0 BUF Td={width} Ref=2.5 Vhigh=5
A2 0 0 N001 0 N002 0 out 0 DFLOP Td=5n Ref=2.5 Vhigh=5  trise=2n tfall=2n
A1 in 0 0 0 0 0 N001 0 SCHMITT Vt=1.5 Vh=0.1 Vhigh=5
A4 0 N003 0 $g_reset 0 0 N002 0 OR Ref=2.5 Vhigh=5
.ends

* Outputs a pulse on the falling edge with a length WIDTH
*
.subckt pulse_falling in out
.param width=100n
A3 out 0 0 0 0 0 N003 0 BUF Td={width} Ref=2.5 Vhigh=5
A2 0 0 N001 0 N002 0 out 0 DFLOP Td=5n Ref=2.5 Vhigh=5 trise=2n tfall=2n
A1 in 0 0 0 0 N001 0 0 SCHMITT Vt=1.5 Vh=0.1 Vhigh=5
A4 0 N003 0 $g_reset 0 0 N002 0 OR Ref=2.5 Vhigh=5
.ends



* LTspice specific digital logic circuits
*
.SUBCKT INV in out vcc vgnd
A1 in vgnd vgnd vgnd vgnd out vgnd vgnd BUF Ref=1.5 Vhigh=5  trise=2n tfall=2n
*B1 out1 vgnd  V=IF( (V(in,vgnd)>1.5), 0, V(vcc,vgnd) )
*R1 out1 out 100
*C1 out vgnd 10p
.ENDS

.SUBCKT AND2 in1 in2 out vcc vgnd
A1 in1 in2 vgnd vgnd vgnd vgnd out vgnd AND Ref=1.5 Vhigh=5  trise=2n tfall=2n
*B1 out1 vgnd  V=IF( ((V(in1,vgnd)>1.5)&(V(in2,vgnd)>1.5)), V(vcc,vgnd), 0) 
*R1 out1 out 100
*C1 out vgnd 10p
.ENDS

.SUBCKT AND3 in1 in2 in3 out vcc vgnd
A1 in1 in2 in3 vgnd vgnd vgnd out vgnd AND Ref=1.5 Vhigh=5  trise=2n tfall=2n
*B1 out1 vgnd  V=IF( ((V(in1,vgnd)>1.5)&(V(in2,vgnd)>1.5)&(V(in3,vgnd)>1.5)), V(vcc,vgnd), 0 )
*R1 out1 out 100
*C1 out vgnd 10p
.ENDS

.SUBCKT OR2 in1 in2 out vcc vgnd
A1 in1 in2 vgnd vgnd vgnd vgnd out vgnd OR Ref=1.5 Vhigh=5  trise=2n tfall=2n
*B1 out1 vgnd  V=IF( ((V(in1,vgnd)>1.5) | (V(in2,vgnd)>1.5)), V(vcc,vgnd), 0 )
*R1 out1 out 100
*C1 out vgnd 10p
.ENDS


* IMPEDANCE MULTIPLIER
* Can be used in any SPICE which understands POLY syntax.
*
* My oldest source of this impedance multilplier circuit is from a book.
* Book title: Simulieren mit PSPICE , Dietmar Erhardt, Jürgen Schulte,
* ISBN 3-528-14921-3, 1995
* I have also seen it in newer library files from PSPICE as well. This the
* source of the comments.
*
* Example uses:
*   - voltage-controlled capacitor ...	use "variable admittance"
*   - voltage-controlled inductor ...	use "variable impedance"
*
* Variable admittance: Yout = Yref * V
*           control input: voltage
*           |  reference capacitor/conductance (connect other lead to ground)
*          / \ |  output: floating admittance
*          + - | / \
.subckt yx 1 2 3 4 5
ecopy  3 6 poly(2) (1,2) (4,5) 0 0 0 0 1
fout   4 5 vsense 1
rin    1 2 1G
vsense 0 6 0
.ends

* Variable impedance: Zout = Zref * V
*           control input: voltage
*           |  reference inductor/resistor (connect other lead to ground)
*          / \ |  output: floating impedance
*          + - | / \
.subckt zx 1 2 3 4 5
eout   4 6 poly(2) (1,2) (3,0) 0 0 0 0 1
fcopy  0 3 vsense 1
rin    1 2 1G
vsense 6 5 0
.ends


* Other parts
*
*ZETEX BSS84 Spice Model v1.1 Last Revised 3/5/00
*              
.SUBCKT BSS84/ZTX 3 4 5
* NODES: DRAIN GATE SOURCE
M1 3 2 5 5 MOD1
RG 4 2 167
RL 3 5 50E6
C1 2 5 26P
C2 3 2 4P 
D1 3 5 DIODE1
*
.MODEL MOD1 PMOS VTO=-1.709 RS=3.091 RD=0.979 IS=1E-15 KP=0.146 CBD=12P PB=1
.MODEL DIODE1 D IS=1.072E-13 RS=0.527 N=1.077
.ENDS BSS84

* Just invented. I never looked in a data book for it.
.subckt D1N4500 plus minus
D1 plus minus DN
.model DN D(Is=1e-12 Rs=1 Cjo=10p)
.ends


* I tried at the beginning with delay functions, but then I gave up 
* because a 5ns delay slow downs simulation too much. I replaced the 
* original "pulse_rising" and "pulse_falling" circuit with a LTspice 
* specific implementaion. Now there is no more a delay circuit necessary.
* I left it here just for historical reason.

.subckt delay1 in out vcc vgnd   
B2 out vgnd V=delay(V(in,vgnd), {delay})
*B1 out0 vgnd  V=if( (V(in,vgnd)>1.5), V(vcc,vgnd), 0 )
*B2 out vgnd V=delay(V(out0,vgnd), {delay})
.ends

.subckt delay2 in out vcc vgnd
E1 1 vgnd in vgnd 1
R1 1 2 1k
C1 2 vgnd 10p
E2 out vgnd 2 vgnd 1
.ends

.subckt delay in out vcc vgnd   
B2 out vgnd V=delay(V(in,vgnd), {delay})
.ends


.SUBCKT XOR in1 in2 out vcc vgnd
A1 in1 in2 vgnd vgnd vgnd vgnd out vgnd XOR Ref=1.5 Vhigh=5  trise=2n tfall=2n
*B1 out1 vgnd  V=IF( ( ((V(in1,vgnd)>1.5)&(V(in2,vgnd)<1.5)) | ((V(in1,vgnd)<1.5)&(V(in2,vgnd)>1.5)) ), V(vcc,vgnd), 0 )
*R1 out1 out 100
*C1 out vgnd 10p
.ENDS


