* Electrostatic speaker models
*
*
.subckt ELS100 1 2 
R1 1 10  0.01
V1 10 11 0
B1 11 2 V=I(V1)  MAG FREQ=
+ 1e2, 0.893, -26.7 
+ 1e3, 0.705, -45.2 
+ 1e4, 0.37, -68.3 
+ 1e5, 0.195, -78.7
.ends
*
*
.subckt ELS101 1 2 
R1 1 10  0.01
V1 10 11 0
B1 11 2 V=I(V1)  MAG FREQ=
.include ELS101_data.txt
.ends
*
*
.subckt ELS200 1 2 
R1 1 10  0.01
V1 10 11 0
B1 11 2 V=I(V1)  MAG FREQ=
+ (1e2, 1.893, -26.7) 
+ (1e3, 1.0705, -45.2) 
+ (1e4, 0.7, -68.3) 
+ (1e5, 0.2, -78.7)
.ends