************ Discrete Power Bipolar Electrical Model **************
** Product: MPSA14 / MPSA14_NL
** Package: TO-92
**-----------------------------------------------------------------
* connections:    Collector
*                 |  Base
*                 |  |  Emitter
*                 |  |  |
.SUBCKT MPSA92    1  2  3
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model 2.873
D1 3 1 Dmodel
R1 2 4 200.0E6
R2 4 3 200.0E6

.MODEL Dmodel D
+ IS=1.00E-14      RS=1.000E-3    N=1          XTI=3
+ CJO=1.00E-20     VJ=1           M=0.5        FC=0.5

.MODEL Q1model NPN
+ IS=1.34E-14     BF=340          NF=1         VAF=136.7
+ IKF=0.38        ISE=7.84E-14    NE=1.5       BR=0.657
+ NR=1            VAR=92          IKR=1.87     ISC=9.0E-13
+ NC=2.0          RB=86.610       RE=0.08      NK=0.9
+ RE=0.58         RC=0.25         EG=1.180     FC=0.5
+ CJE=1.19288E-11 VJE=1.12097     MJE=0.301248 CJC=1.25659E-11
+ VJC=0.70336     MJC=0.325457    XCJC=0.9     TF=1.27E-9 
+ XTB=2.12        XTI=3
 
.MODEL Q2model NPN
+ IS=1.34E-14     BF=340          NF=1         VAF=136.7
+ IKF=0.38        ISE=7.84E-14    NE=1.5       BR=0.657
+ NR=1            VAR=92          IKR=1.87     ISC=9.0E-13
+ NC=2.0          RB=86.610       RE=0.08      NK=0.9
+ RE=0.58         RC=0.25         EG=1.180     FC=0.5
+ CJE=1.19288E-11 VJE=1.12097     MJE=0.301248 CJC=1.25659E-11
+ VJC=0.70336     MJC=0.325457    XCJC=0.9     TF=1.27E-9 
+ XTB=2.12        XTI=3
              
.ENDS
**-----------------------------------------------------------------
** Creation: Dec.-27-2004
** Fairchild Semiconductor
