* TIP142 NPN EPITAXIAL SILICON TRANSISTOR ELECTRICAL PARAMETER

* Power Darlington Transistor 

* =======================================================================

* Complement to TIP145 / TIP146 / TIP147  Respectively

* =======================================================================

* Vcbo & Vceo: TIP140 60V / TIP141 80V / TIP142 100V 

* Ic(DC) 10A / Ic(Pulse) 15A / Ib 0.5A

* =======================================================================

* Connections:    Collector 1   Base 2  Emitter 3

* =======================================================================

.SUBCKT TIP142     1  2  3  

*

Q1 1 2 4 Q1model

Q2 1 4 3 Q2model 5.888

D1 3 1 Dmodel

R1 2 4 8.000E3

R2 4 3 120

.MODEL Dmodel D

+  IS=4.721E-12         RS=1.083E-6         N=1.068 

+  CJO=4.822E-10        VJ=.5               M=.34 

+  FC=.5

.MODEL Q1model NPN

+  IS=8.075E-14         BF=7.827E3          NF=1 

+  VAF=100              IKF=1.094           ISE=4.463E-13

+  NE=1.337             BR=0.1001           NR=1

+  VAR=100              IKR=0.4891          ISC=2.302E-13

+  NC=3.197             RB=2.222            RE=0.001

+  RC=0.990             EG=1.110            CJE=4.389E-10

+  VJE=0.77             MJE=0.3101          CJC=4.852E-10

+  VJC=0.4855           MJC=0.3379          XCJC=0.469

+  FC=.5

.MODEL Q2model NPN

+  IS=8.075E-14         BF=7.827E3          NF=1

+  VAF=100              IKF=1.094           ISE=4.463E-13

+  NE=1.297             BR=0.1001           NR=1

+  VAR=100              IKR=0.4891          ISC=2.302E-13

+  NC=3.197             RB=2.222            RE=0.001

+  RC=0.990             EG=1.110            CJE=4.389E-10

+  VJE=0.77             MJE=0.3101          CJC=0

+  VJC=0.4855           MJC=0.3379          XCJC=0.469

+  FC=0.5

.ENDS

* ======================================================================

* FAIRCHILD      CASE: TO-3P      PID: TIP142

* FEB-28-2001 CREATION  