* simple opamp
*
* CONNECTIONS:   +i -i V+ V- Out

.subckt nkq      1  2  3  4  5
E1 0i 4 3 4 0.2
* ratio +ve to -ve psg is (1-0.2)/0.2 = 4
G1 0i 5 1 2 {Aol}
R1 5 0i 1
C1 5 0i {Aol/GBW/6.28319}
I1 3 4 5m
.ends nkq
