**************************************************************************************
* 1SMB28A PSPICE macro-model
* Uni-directional TVS avalanche diode, SMB package, VBR = 32.75 V
**************************************************************************************
* Anode Cathode
.SUBCKT SMB28A 7 1
**************************************************************************************
* Forward Region
* D1’s CJO term models the capacitance
D1 2 1 MDD1
.MODEL MDD1 D IS=1.83708e-14 N=1 XTI=1 RS=0.2
+ CJO=486e-12 TT=5e-10
**************************************************************************************
* Leakage Region
* RL models leakage current (IL)
* MDR temp. coef. model ?IL / ?T
RL 1 2 MDR 5.64e+06
.MODEL MDR RES TC1=0 TC2=0
**************************************************************************************
* Reverse Breakdown Region
* RZ models the ?I / ?V slope
* The small signal impedance is equal to 0.1 O
* A RZ value of 0.65 O matches the clamping voltage at max. current
* Increasing RZ models the self-heating from the energy of a surge event
RZ 2 3 0.65
D2 4 3 MDD2
.MODEL MDD2 D IS=2.5e-15 N=0.5
* Breakdown Voltage (VBR) = IBV x RBV
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 32750
* MDRBV temp. coef. model ?VBR / ?T
.MODEL MDRBV RES TC1=0.00098
D3 8 0 MDD2
IT 0 8 0.001
**************************************************************************************
* L models the lead-to-silicon connection package inductance
L 7 2 2.44e-9
*
.ENDS SMB28A

**************************************************************************************
**************************************************************************************