**************************************************************************************
NUP2105 Macro-Model
**************************************************************************************
**************************************************************************************
AND8254/D
http://onsemi.com
9
* NUP2105 PSPICE macro-model
* Bi-directional TVS avalanche diode, SOT-23 package, VBR = 26.4 V
* Model simulates 1 of the 2 I/O lines
**************************************************************************************
* DA Cathode DB Cathode DA,B Common Anode
.SUBCKT NUP2105 1 2 3
* Bidirectional devices are formed from two uni-directional devices
X1 3 1 HALFNUP2105
X2 3 2 HALFNUP2105
.ENDS NUP2105
**************************************************************************************
* Model HALFNUP2105 represents one bi-directional pair of a dual device
* Anode Cathode
.SUBCKT HALFNUP2105 7 1
* Forward Region
* D1’s CJO term models the capacitance
D1 2 1 MDD1
.MODEL MDD1 D IS=1.83708e-14 N=1 XTI=1 RS=0.2
+ CJO=26.4e-12 TT=1e-08
**************************************************************************************
* Leakage Region
* RL models leakage current (IL)
* MDR temp. coef. model ?IL / ?T
RL 1 2 MDR 4.32244e+08
.MODEL MDR RES TC1=0 TC2=0
**************************************************************************************
* Reverse Breakdown Region
* RZ models the ?I / ?V slope
RZ 2 3 1.28
D2 4 3 MDD2
.MODEL MDD2 D IS=2.5e-15 N=0.5
* Breakdown Voltage (VBR) = IBV x RBV
EV1 1 4 6 8 1
IBV 0 6 0.001
RBV 6 0 MDRBV 26357.1
* MDRBV temp. coef. model ?VBR / ?T
.MODEL MDRBV RES TC1=0.00096
D3 8 0 MDD2
IT 0 8 0.001
**************************************************************************************
* L models the lead-to-silicon connection package inductance
* L is distributed between two diodes for bi-directional diodes
L 7 2 1.24e-9
**************************************************************************************
.ENDS halfnup2105
**************************************************************************************